2148-12-09 07:08:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
   - had melena overnight, nausea, and small coffee ground emesis
   - got ativan per CIWA scale x 2
   - ongoing tachycardia, minimal improvement with 1L NS
   - awaiting [**Name (NI) 3234**] sono
   - Hct fell to 25
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-9**] 04:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-12-9**] 03:57 AM
   Lorazepam (Ativan) - [**2148-12-9**] 05:35 AM
   Other medications:
   Vitamin K 10 mg PO x 3 days
   Folic acid 1 mg daily
   Thiamine 100 IV daily
   Cipro 400 mg x 1
   Insulin Sliding Scale
   Ativan 2 mg daily
   Zofran PRN
   Pantoprazole 40 mg [**Hospital1 7**]
   Octreotide Drip
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-9**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 122 (115 - 127) bpm
   BP: 172/93(112) {137/70(88) - 172/93(112)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
             Total In:
             1,760 mL
   PO:
             TF:
   IVF:
   1,760 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    495 mL
   Urine:
   345 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,265 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: well appearing obese gentleman, NAD, tremulous
   HEENT: EOMI, o/p clear
   CV: Tachycardic, no m/r/g
   Lungs: CTA bilaterally
   Abd: Obese, soft, NT, distended, bowel sounds present
   Ext: no peripherally edema, + asterixus, tremulous
   Skin: +spiders
   Labs / Radiology
   51 K/uL
   8.8 g/dL
   25.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
   WBC
   6.6
   Hct
   25.6
   Plt
   51
   Other labs: Differential-Neuts:81.5 %, Lymph:13.1 %, Mono:5.1 %,
   Eos:0.3 %
   PT 16.3
   PTT 26.9
   INR 1.5
   Micro:
   HCV VL pending [**2148-12-9**]
   Imaging:
   EGD [**2148-12-9**].
   Varices at the lower third of the esophagus (ligation)
   Erythema and friability in the middle third of the esophagus and lower
   third of the esophagus compatible with esophagitis
   Erythema, friability, granularity and mosaic appearance in the stomach
   body and fundus compatible with portal hypertensive gastropathy
   Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
   In summary, Mr. [**Known lastname 3228**] is a 51 year old male with h/o
   hemachromatosis, alcoholic liver disease, HCV, and alcohol abuse, and
   history of esophageal varices admitted for UGIB.
   1.       Upper GI Bleed. EGD today showed grade [**3-10**] esophageal varices
   s/p banding as well as esophagitis.  OSH EGD showed gastritis but did
   not comment on varices.  Was started on IV PPI [**Hospital1 7**] and octreotide
   drip.  Had melena and bright red hematemasis overnight.  Currently has
   two peripheral (22, 18) and a PICC line for access.  Received 2 units
   of PRBCs this morning and 1.5 of emergency release blood at OSH.  Per
   PCP, [**Name10 (NameIs) **] had a few admissions for GIBs.  [**Name10 (NameIs) **] Hct of 35-40 per PCP.
   [**Name Initial (NameIs) **] [**Name Initial (NameIs) **] 6 hour Hcts, transfuse to 30 given active bleeding
   - octreotide drip, IV PPI [**Hospital1 7**]
   - type and cross 2 units
   - cipro prophylaxis for SBP prophylaxis in patient with history of
   cirrhosis
   - sucralafate for two weeks
   - Liver team following
   - advance to clears
   - initiate nadolol 20 mg daily in PM if stable from standpoint of
   ongoing bleed
   2.       Tachycardia.  HR currently in the 130s and BP increasing,
   likely secondary to combination of alcohol withdrawal, GI bleed, and
   ?dehydration.  HR did not respond to fluid boluses, but mild
   improvement with ativan for CIWA scale and blood transfusion.  Also,
   normally on home BB and ACIE, which is being held.
   - monitor on tele
   - blood transfusions, to keep hct > 30
   - ativan per CIWA scale
   3.  Liver disease.  Patient has a history of hemochromatosis, alcohol
   abuse, and HCV.  Evidence of stigmata of chronic liver disease.
   - abdominal ultrasound
   - f/u iron studies
   - f/u HCV viral load
   4.  Alcohol abuse.  Physical exam and vitals suggestive of alcohol
   withdrawal.
   - ativan CIWA scale
   - Thiamine, folate, MVI
   5.  ELEVATED INR.  Likely secondary to combination of liver disease and
   poor PO intake.
   - attempt reversal with vitamin k 10mg PO x3 days
   6.  THROMBOCYTOPENIA.  [**Month (only) 51**] be secondary to marrow suppression from
   alcohol abuse or splenic sequestration.  Per PCP, [**Name10 (NameIs) 1123**] Plt is in
   70s.  Unclear from PCP what prior workup has occurred.
   - obtain OSH records for previous workup and for prior [**Name10 (NameIs) 1123**] Plt
   count
   -  trend plts, transfuse for <50 while having GIB
   - check peripheral smear to r/o schistocytes
   7.  DIABETES MELLITUS
   -   RISS for now, hold glyburide for now
   8.  HYPERTENSION.  Likely secondary to alcohol withdrawal and not being
   on home antihypertensives.  Given history of varices, will consider
   resuming antihypertensives in PM if hemodynamically stable and no
   further ongoing bleeding.
   -  hold lopressor in setting of GIB, but consider starting nadolol in
   PM
   9.       Anion gap.  Patient has an elevated anion gap, with unclear
   etiology.
   - check u tox, s tox
   PCP: [**First Name8 (NamePattern2) 20**] [**Last Name (NamePattern1) 3238**] Ph [**Telephone/Fax (1) 3239**]
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2148-12-9**] 02:00 AM
   16 Gauge - [**2148-12-9**] 02:01 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2148-12-10 07:37:00 Physician Resident Progress Note
Chief Complaint: upper GI bleed
   24 Hour Events:
   - EGD performed; grade II-III & gastritis/esophagitis; 4 bands placed
   - Carafate and nadolol started
   - 1 bag platelets given for plt ct 47 --> 71
   - hematocrit not appropriately bumping to transfusion; total 4 units
   given since admission to [**Hospital1 19**] (25.6 --> 2units --> 28 --> 1 unit -->
   26.8 --> 1 unit).
   - PICC line placed
   - abdominal ultrasound showed fatty infiltration of liver, final
   results pending
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-10**] 06:06 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-12-9**] 11:18 AM
   Fentanyl - [**2148-12-9**] 11:18 AM
   Lorazepam (Ativan) - [**2148-12-9**] 08:39 PM
   Pantoprazole (Protonix) - [**2148-12-10**] 04:26 AM
   Other medications:
   Nadolol 20 mg daily
   Sucralafate QID
   Octreotide Drip
   Vitamin K 10 mg PO x 3 days
   Folic Acid 1 mg daily
   Thiamine 100 mg daily
   Cipro 400 mg [**Hospital1 7**]
   Insulin Sliding Scale
   Ativan PRN CIWA
   Zofran PRN
   Pantoprazole 40 IV BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-10**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 88 (83 - 128) bpm
   BP: 145/92(104) {143/62(84) - 178/112(133)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
           Total In:
                                                                  4,542 mL
                                                                    765 mL
   PO:
                                                                    600 mL
           TF:
   IVF:
                                                                  2,315 mL
                                                                    448 mL
   Blood products:
                                                                  1,627 mL
                                                                    317 mL
   Total out:
                                                                  1,580 mL
                                                                    640 mL
   Urine:
                                                                  1,380 mL
                                                                    640 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,962 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   60 K/uL
   10.4 g/dL
   145 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.1 mEq/L
   17 mg/dL
   99 mEq/L
   135 mEq/L
   29.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
   WBC
   6.6
   7.2
   5.4
   Hct
   25.6
   28.0
   26.8
   29.7
   Plt
   51
   47
   71
   60
   Cr
   1.0
   0.8
   Glucose
   241
   145
   Other labs: PT / PTT / INR:15.5/29.3/1.4, ALT / AST:26/62, Alk Phos / T
   Bili:85/1.9, Amylase / Lipase:31/23, Differential-Neuts:73.7 %,
   Lymph:16.3 %, Mono:6.3 %, Eos:3.2 %, Albumin:3.1 g/dL, LDH:244 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Micro: HCV VL pending
   Abdominal Ultrasound [**2148-12-9**].  Wet read:  Patent hepatic vasculature,
   echogenic liver compatibile with fatty infiltration, however, other
   forms of liver disease and more advanced liver disease cannot be
   excluded
   Assessment and Plan
   In summary, Mr. [**Known lastname 3228**] is a 51 year old male with h/o
   hemachromatosis, alcoholic liver disease, HCV, and alcohol abuse, and
   history of esophageal varices admitted for UGIB.
   1.       Upper GI Bleed. EGD today showed grade [**3-10**] esophageal varices
   s/p banding as well as esophagitis.  OSH EGD showed gastritis but did
   not comment on varices.  Was started on IV PPI [**Hospital1 7**] and octreotide
   drip.  Had melena and bright red hematemasis overnight.  Currently has
   two peripheral (22, 18) and a PICC line for access.  Received 2 units
   of PRBCs this morning and 1.5 of emergency release blood at OSH.  Per
   PCP, [**Name10 (NameIs) **] had a few admissions for GIBs.  [**Name10 (NameIs) **] Hct of 35-40 per PCP.
   [**Name Initial (NameIs) **] [**Name Initial (NameIs) **] 6 hour Hcts, transfuse to 30 given active bleeding
   - octreotide drip, IV PPI [**Hospital1 7**]
   - type and cross 2 units
   - cipro prophylaxis for SBP prophylaxis in patient with history of
   cirrhosis
   - sucralafate for two weeks
   - Liver team following
   - advance to clears
   - initiate nadolol 20 mg daily in PM if stable from standpoint of
   ongoing bleed
   2.       Tachycardia.  HR currently in the 130s and BP increasing,
   likely secondary to combination of alcohol withdrawal, GI bleed, and
   ?dehydration.  HR did not respond to fluid boluses, but mild
   improvement with ativan for CIWA scale and blood transfusion.  Also,
   normally on home BB and ACIE, which is being held.
   - monitor on tele
   - blood transfusions, to keep hct > 30
   - ativan per CIWA scale
   3.  Liver disease.  Patient has a history of hemochromatosis, alcohol
   abuse, and HCV.  Evidence of stigmata of chronic liver disease.
   - abdominal ultrasound
   - f/u iron studies
   - f/u HCV viral load
   4.  Alcohol abuse.  Physical exam and vitals suggestive of alcohol
   withdrawal.
   - ativan CIWA scale
   - Thiamine, folate, MVI
   5.  ELEVATED INR.  Likely secondary to combination of liver disease and
   poor PO intake.
   - attempt reversal with vitamin k 10mg PO x3 days
   6.  THROMBOCYTOPENIA.  [**Month (only) 51**] be secondary to marrow suppression from
   alcohol abuse or splenic sequestration.  Per PCP, [**Name10 (NameIs) 1123**] Plt is in
   70s.  Unclear from PCP what prior workup has occurred.
   - obtain OSH records for previous workup and for prior [**Name10 (NameIs) 1123**] Plt
   count
   -  trend plts, transfuse for <50 while having GIB
   - check peripheral smear to r/o schistocytes
   7.  DIABETES MELLITUS
   -   RISS for now, hold glyburide for now
   8.  HYPERTENSION.  Likely secondary to alcohol withdrawal and not being
   on home antihypertensives.  Given history of varices, will consider
   resuming antihypertensives in PM if hemodynamically stable and no
   further ongoing bleeding.
   -  hold lopressor in setting of GIB, but consider starting nadolol in
   PM
   9.       Anion gap.  Patient has an elevated anion gap, with unclear
   etiology.
   - check u tox, s tox
   PCP: [**First Name8 (NamePattern2) 20**] [**Last Name (NamePattern1) 3238**] Ph [**Telephone/Fax (1) 3239**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2148-12-9**] 03:07 AM
   22 Gauge - [**2148-12-9**] 08:35 AM
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-12-10 08:31:00 Physician Attending Progress Note
Chief Complaint:  UGI bleed
   HPI: ETCOH abuse, hematemesis
   24 Hour Events:
 PICC LINE - START [**2148-12-9**] 11:00 AM
 ENDOSCOPY - At [**2148-12-9**] 11:14 AM: grade [**3-10**] varices with small
   bleeding, s/p banding
   > 4 units of PRBC with inappropriate rise.
 ULTRASOUND - At [**2148-12-9**] 02:09 PM: patent hepatic vasculature,
   echogenic liver (prelim)
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-10**] 06:06 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-12-9**] 11:18 AM
   Fentanyl - [**2148-12-9**] 11:18 AM
   Lorazepam (Ativan) - [**2148-12-9**] 08:39 PM
   Pantoprazole (Protonix) - [**2148-12-10**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-10**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 90 (83 - 128) bpm
   BP: 145/92(127) {143/62(84) - 177/112(133)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
           Total In:
                                                                  4,542 mL
                                                                    801 mL
   PO:
                                                                    600 mL
           TF:
   IVF:
                                                                  2,315 mL
                                                                    484 mL
   Blood products:
                                                                  1,627 mL
                                                                    317 mL
   Total out:
                                                                  1,580 mL
                                                                    640 mL
   Urine:
                                                                  1,380 mL
                                                                    640 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,962 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   60 K/uL
   145 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.1 mEq/L
   17 mg/dL
   99 mEq/L
   135 mEq/L
   29.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
   WBC
   6.6
   7.2
   5.4
   Hct
   25.6
   28.0
   26.8
   29.7
   Plt
   51
   47
   71
   60
   Cr
   1.0
   0.8
   Glucose
   241
   145
   Other labs: PT / PTT / INR:15.5/29.3/1.4, ALT / AST:26/62, Alk Phos / T
   Bili:85/1.9, Amylase / Lipase:31/23, Differential-Neuts:73.7 %,
   Lymph:16.3 %, Mono:6.3 %, Eos:3.2 %, Albumin:3.1 g/dL, LDH:244 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   51 yo male with hx of UGIB in the setting of a hx of heavy EtOH,
   hemachromatosis and Hepatitis C with UGIB in the setting of grad [**3-10**]
   esoph varices s/p banding [**12-9**].
   GIB: hx of EtOH abuse, hemachromatosis and ?Hep C as possible cause  of
   cirrhosis.  His baseline Hct is apparently in the mid 30
s. Now s/p
   variceal bleed with banding.
   - octreotide and IV PPI
   - Follow q 8hr Hct
   -  cont Beta blocker (uptitrate)
   - Ciprofloxacin prophylaxis
   - Abd U/S with Doppler imaging to eval patency of portal system: await
   final read
   - Goal HCT > 30 in the setting of bleeding, Goal Plt> 50 and INR < 1.5
   - Oral vitamin K
   If hct declines or becomes unstable hemodynamically, may need relook
   EGD/ colonoscopy
   HTN/tachycardia: beta blocker
    EtOH abuse:
   - CIWA scale using haldol for hallucination, benzo for agitation and
   metop/labet IVP for HTN/tachy.
   - fluid repletion with D5 , thiamine and folate
   - Advance diet as tolerated
   Thrombocytopenia: unclear etiology possible partial component of marrow
   suppression (from EtOh although odd that MCV is low) vs hemachromatosis
   marrow infiltrate)  and dilutional effect given transfusions. By report
   this is chronic. Does not appear to be a med related toxic component.
   Awaiting US for spleen evaluation.  Peripheral smear does not reveal
   evidence of schistos
   - Abd U/S: ? splenic sequestration.
   -Plt goal of> 50
   ICU Care
   Nutrition:
   Comments: clears
   Glycemic Control:  Regular insulin sliding scale, Comments: as needed
   Lines:
   18 Gauge - [**2148-12-9**] 03:07 AM
   22 Gauge - [**2148-12-9**] 08:35 AM
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU (unstable Hct)
   Total time spent: 35 minutes

2148-12-11 06:48:00 Physician Resident Progress Note
Chief Complaint: upper Gi bleed
   24 Hour Events:
   - Patient began withdrawing from alcohol, requiring frequent benzos,
   haldol
   - abdominal ultrasound showed splenomegaly
   - outpatient GI doctor does not know of prior liver workup; per
   patient, prior liver workup (including biopsy) occured at [**Hospital1 19**] though
   no record of this in OMR
   - nadolol increased to 40 mg daily
   - 1 unit of PRBC transfused (Hct 29.7 --> 29.9 --> 28.9  --> 34.5)
   - Platelets stable at 70
   - HCV VL > 3 million
   - seen by social work who recommend outpatient alcohol treatment
   program
   - seen by liver who recommends labs for evaluation of other etiologies
   of cirrhosis, octreotide drip to be continued for 3 days
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-11**] 06:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-12-11**] 03:30 AM
   Haloperidol (Haldol) - [**2148-12-11**] 04:56 AM
   Other medications:
   Ativan [**3-11**] IV PRN ciwa
   Nadolol 40 mg daily
   Sucralafate 1 gm PO QID
   Octreotide drip
   Folate daily
   Thiamine 100 IV daily
   Cipro 400 mg IV q 12
   Insulin Sliding Scale
   Zofran prn
   Pantoprazole 40 IV q 12 hour
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-11**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 80 (72 - 90) bpm
   BP: 169/89(112) {145/76(93) - 185/98(127)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
           Total In:
                                                                  2,803 mL
                                                                    496 mL
   PO:
                                                                    770 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,350 mL
                                                                    368 mL
   Blood products:
                                                                    683 mL
                                                                      8 mL
   Total out:
                                                                  3,015 mL
                                                                  1,025 mL
   Urine:
                                                                  3,015 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -212 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Tender:
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): person only,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   70 K/uL
   12.4 g/dL
   163 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   9 mg/dL
   98 mEq/L
   131 mEq/L
   34.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
                             [**2148-12-10**]  11:15 AM
                             [**2148-12-10**]  06:53 PM
                             [**2148-12-11**]  03:22 AM
   WBC
   6.6
   7.2
   5.4
   8.8
   Hct
   25.6
   28.0
   26.8
   29.7
   29.9
   28.9
   34.5
   Plt
   51
   47
   71
   60
   56
   53
   70
   Cr
   1.0
   0.8
   0.8
   Glucose
   241
   145
   163
   Other labs: PT / PTT / INR:15.4/26.3/1.4, ALT / AST:26/62, Alk Phos / T
   Bili:85/1.9, Amylase / Lipase:31/23, Differential-Neuts:78.8 %,
   Lymph:12.3 %, Mono:4.2 %, Eos:4.3 %, Albumin:3.1 g/dL, LDH:244 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
HCV VL.  [**2148-12-9**].  3,730,000 IU/mL.
Hep A, Hep B, Hep C antibodies pending.
IgA 513 (elevated)
[**Doctor First Name **]
 pending
Anti-smooth muscle antibody
 pending
Hemochromatosis mutation analysis - pending
   Assessment and Plan
   In summary, Mr. [**Known lastname 3228**] is a 51 year old male with h/o
   hemachromatosis, alcoholic liver disease, HCV, and alcohol abuse, and
   history of esophageal varices admitted for UGIB.
    1.  Alcohol withdrawal.  Patient now 48 hours from last drink with
   evidence of alcohol withdrawal.  Requiring large amounts of benzos to
   control symptoms and haldol.
   - ativan per CIWA scale
   - haldol as needed while monitoring QTc
           -  thiamine, folate, mvi
           - daily EKG for QTc evaluation
   2.        Upper GI Bleed. EGD showed grade [**3-10**] esophageal varices s/p
   banding as well as esophagitis.  Was started on IV PPI [**Hospital1 7**] and
   octreotide drip.  No BMs or hematemasis in last 24 hours.  Currently
   has two peripheral (22, 18) and a PICC line for access.  Received 5
   units of PRBCs since admission without appropriate increase in hct (25
 34.5).   [**Hospital1 **] Hct of 35-40 per PCP.
   [**Name Initial (NameIs) **] [**Hospital1 7**] Hcts
   - octreotide drip for three days (until AM of [**12-12**])
   -  IV PPI [**Hospital1 7**]
   - type and cross 2 units
   - d/c cipro given that patient has no evidence of ascites
   - sucralafate for two weeks
   - Liver team following
   - regular diet
   -  nadolol 40 mg daily given presence of varices
   3. Hypertension.  Patient on lisinopril and lopressor at home at
   unknown doses.  Nadolol initiated during hospital stay due to history
   of varices.  Patinet has ongoing hypertension likely due to withdrawal
   from alcohol plus [**Hospital1 1123**] hypertension.
   - tolerate SBP < 160, prn IV antihypertensives
   - continue nadolol (though patient unlikely to tolerate Pos given
   sedation)
   .
   4.   Liver disease.  Patient has a history of hemochromatosis, alcohol
   abuse, and HCV.  Evidence of stigmata of chronic liver disease.
   Elevated Iron noted.  Abdominal ultrasound did not show cirrhosis, but
   showed splenomegaly and no ascites.  Patient state prior workup for
   liver disease including liver biopsy occurred at [**Hospital1 19**] many years ago,
   but no record of this.  Outpatient GI doctor is unclear of prior workup
   given that patient does not follow up regularly.
   - f/u final read of abdominal ultrasound
   - f/u anti smooth muscle [**Last Name (LF) 3294**], [**First Name3 (LF) **], hep A, B, C antibodies, HFE,
   to evaluate for other etiology of cirrhosis
   5.  ELEVATED INR.  Likely secondary to combination of liver disease and
   poor PO intake.  Minimal effect with oral vitamin K.
   - follow INR
   6.  THROMBOCYTOPENIA.  [**Month (only) 51**] be secondary to marrow suppression from
   alcohol abuse or splenic sequestration.  Noted to have splenomegaly on
   abdominal ultrasound.  Per PCP, [**Name10 (NameIs) 1123**] Plt is in 70s.  Unclear from
   PCP what prior workup has occurred.  No schistocytes on peripheral
   smear.
   -  trend plts, transfuse for <50 while having GIB
   7.  DIABETES MELLITUS
   -   RISS for now, hold glyburide for now
   PCP: [**First Name8 (NamePattern2) 20**] [**Last Name (NamePattern1) 3238**] Ph [**Telephone/Fax (1) 3239**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2148-12-9**] 03:07 AM
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-12-11 08:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: UGI bleed, ETO abuse
   24 Hour Events:
   > increasing EtOH withdrawl symptoms
   > Ativan 20 mg over the PM shift for agitation
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-11**] 06:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-12-11**] 03:30 AM
   Haloperidol (Haldol) - [**2148-12-11**] 04:56 AM
   Lorazepam (Ativan) - [**2148-12-11**] 07:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-11**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 77 (72 - 86) bpm
   BP: 165/102(119) {141/76(93) - 185/125(119)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
           Total In:
                                                                  2,803 mL
                                                                    670 mL
   PO:
                                                                    770 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,350 mL
                                                                    542 mL
   Blood products:
                                                                    683 mL
                                                                      8 mL
   Total out:
                                                                  3,015 mL
                                                                  1,245 mL
   Urine:
                                                                  3,015 mL
                                                                  1,245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -212 mL
                                                                   -575 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: diminished
   at the based
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: agitated, Responds to: verbal, Movement: moving all exts
   A+O x 0
   Labs / Radiology
   12.4 g/dL
   70 K/uL
   163 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   9 mg/dL
   98 mEq/L
   131 mEq/L
   34.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
                             [**2148-12-10**]  11:15 AM
                             [**2148-12-10**]  06:53 PM
                             [**2148-12-11**]  03:22 AM
   WBC
   6.6
   7.2
   5.4
   8.8
   Hct
   25.6
   28.0
   26.8
   29.7
   29.9
   28.9
   34.5
   Plt
   51
   47
   71
   60
   56
   53
   70
   Cr
   1.0
   0.8
   0.8
   Glucose
   241
   145
   163
   Other labs: PT / PTT / INR:15.4/26.3/1.4, ALT / AST:26/62, Alk Phos / T
   Bili:85/1.9, Amylase / Lipase:31/23, Differential-Neuts:78.8 %,
   Lymph:12.3 %, Mono:4.2 %, Eos:4.3 %, Albumin:3.1 g/dL, LDH:244 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Abd US [**12-10**]:
   FINDINGS: Limited evaluation of the abdomen was performed. The spleen
   is
   enlarged, measuring 15.4 cm. No perisplenic varices are identified.
   There is
   no ascites.
   IMPRESSION:
   1. Splenomegaly.
   2. No ascites.
   Assessment and Plan
   51 yo male with hx of UGIB in the setting of a hx of heavy EtOH,
   hemachromatosis and Hepatitis C with UGIB in the setting of grad [**3-10**]
   esoph varices s/p banding [**12-9**].
   GIB: hx of EtOH abuse, hemachromatosis and ?Hep C as possible cause  of
   cirrhosis.  His baseline Hct is apparently in the mid 30
s. Now s/p
   variceal bleed with banding with stable Hct
   - octreotide (until [**12-12**]) and IV PPI
   - Follow q 12hr Hct
   -  cont Beta blocker (uptitrate)
   - Goal HCT > 30 in the setting of bleeding, Goal Plt> 50 and INR < 1.5
   - Oral vitamin K
   Cirrhosis: ongoing evaluation for cirrhosis including hemachromatosis
   and Hep C as well as EtOH abuse, as well as other potential etiologies
   of cirrhosis.
   HTN/tachycardia: beta blocker
   EtOH abuse: [**12-10**] now progressing into withdrawl
   - CIWA scale using haldol for hallucination, benzo for agitation and
   metop/labet IVP for HTN/tachy.
   - fluid repletion with D5 , thiamine and folate
   - Advance diet as tolerated
   - Check ECG
   - Will probably need lactulose (but do not want to place NG tube
   blindly given varices)
    Thrombocytopenia: unclear etiology possible partial component of
   marrow suppression (from EtOh although odd that MCV is low) vs
   hemachromatosis with marrow infiltrate) . By report this is chronic.
   Does not appear to be a med related toxic component.  Appears to have
   significant splenomegaly on US ([**12-10**]) which likely explains the
   thrombocytopenia at least in part.
   -Plt goal of> 50
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  will need close assessment of airway with
   sedation
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2148-12-12 07:39:00 Physician Resident Progress Note
Chief Complaint: alcohol withdrawal, upper gi bleed
   24 Hour Events:
   Octreotide gtt stopped
   Ciprofloxacin stopped [**3-9**] to no abdominal fluid on U/S
   Intermittent agitation - IV ativan, then attempted valium (haldol held
   due to prolonged qtc) with good effect.
   SBPs to 180s - treated with iv labetalol 10mg x2
   [**Doctor First Name **] (-), other hepatic serolgies pending
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2148-12-11**] 09:30 PM
   Labetalol - [**2148-12-12**] 01:30 AM
   Lorazepam (Ativan) - [**2148-12-12**] 01:36 AM
   Pantoprazole (Protonix) - [**2148-12-12**] 03:30 AM
   Other medications:
   Labetolol 10 mg IV prn
   Diazepam prn ciwa
   Haldol PRN
   Ativan PRN
   Nadolol 40 daily
   Sucralafate po QID
   Folic Acid
   Thiamine
   Insulin Sliding Scale
   Zofran
   Pantoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 77 (64 - 91) bpm
   BP: 139/94(106) {139/69(92) - 187/127(138)} mmHg
   RR: 22 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,699 mL
                                                                    194 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,210 mL
                                                                    194 mL
   Blood products:
                                                                      8 mL
   Total out:
                                                                  5,135 mL
                                                                    792 mL
   Urine:
                                                                  5,135 mL
                                                                    792 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,436 mL
                                                                   -598 mL
   Respiratory support
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   66 K/uL
   12.0 g/dL
   137 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   33.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
                             [**2148-12-10**]  11:15 AM
                             [**2148-12-10**]  06:53 PM
                             [**2148-12-11**]  03:22 AM
                             [**2148-12-11**]  05:30 PM
                             [**2148-12-12**]  03:28 AM
   WBC
   6.6
   7.2
   5.4
   8.8
   6.6
   Hct
   25.6
   28.0
   26.8
   29.7
   29.9
   28.9
   34.5
   34.5
   33.7
   Plt
   51
   47
   71
   60
   56
   53
   70
   66
   Cr
   1.0
   0.8
   0.8
   0.8
   0.8
   Glucose
   241
   145
   163
   197
   137
   Other labs: PT / PTT / INR:15.3/28.3/1.3, ALT / AST:38/101, Alk Phos /
   T Bili:114/3.4, Amylase / Lipase:31/23, Differential-Neuts:78.8 %,
   Lymph:12.3 %, Mono:4.2 %, Eos:4.3 %, Albumin:3.1 g/dL, LDH:244 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Abdominal ultrasound:  [**2148-12-10**].
   IMPRESSION:
   1. Splenomegaly.
   2. No ascites.
   IMPRESSION:
   1. Patent hepatic vasculature.
   2. Echogenic liver, compatible with fatty liver, however, other forms
   of
   liver disease and more advanced liver disease, including significant
   hepatic
   cirrhosis/fibrosis cannot be excluded.
   HCV genotype: pending
   Assessment and Plan
   In summary, Mr. [**Known lastname 3228**] is a 51 year old male with h/o
   hemachromatosis, alcoholic liver disease, HCV, and alcohol abuse, and
   history of esophageal varices admitted for UGIB now in alcohol
   withdrawal.
    1.  Alcohol withdrawal.  Patient now 48 hours from last drink with
   evidence of alcohol withdrawal.  Requiring large amounts of benzos to
   control symptoms and haldol.
   - ativan per CIWA scale
   - haldol as needed while monitoring QTc
           -  thiamine, folate, mvi
           - daily EKG for QTc evaluation
   2.        Upper GI Bleed. EGD showed grade [**3-10**] esophageal varices s/p
   banding as well as esophagitis.  Was started on IV PPI [**Hospital1 7**] and
   octreotide drip.  No BMs or hematemasis in last 24 hours.  Currently
   has two peripheral (22, 18) and a PICC line for access.  Received 5
   units of PRBCs since admission without appropriate increase in hct (25
 34.5).   [**Hospital1 **] Hct of 35-40 per PCP.
   [**Name Initial (NameIs) **] [**Hospital1 7**] Hcts
   - octreotide drip for three days (until AM of [**12-12**])
   -  IV PPI [**Hospital1 7**]
   - type and cross 2 units
   - d/c cipro given that patient has no evidence of ascites
   - sucralafate for two weeks
   - Liver team following
   - regular diet
   -  nadolol 40 mg daily given presence of varices
   3. Hypertension.  Patient on lisinopril and lopressor at home at
   unknown doses.  Nadolol initiated during hospital stay due to history
   of varices.  Patinet has ongoing hypertension likely due to withdrawal
   from alcohol plus [**Hospital1 1123**] hypertension.
   - tolerate SBP < 160, prn IV antihypertensives
   - continue nadolol (though patient unlikely to tolerate Pos given
   sedation)
   .
   4.   Liver disease.  Patient has a history of hemochromatosis, alcohol
   abuse, and HCV.  Evidence of stigmata of chronic liver disease.
   Elevated Iron noted.  Abdominal ultrasound did not show cirrhosis, but
   showed splenomegaly and no ascites.  Patient state prior workup for
   liver disease including liver biopsy occurred at [**Hospital1 19**] many years ago,
   but no record of this.  Outpatient GI doctor is unclear of prior workup
   given that patient does not follow up regularly.
   - f/u final read of abdominal ultrasound
   - f/u anti smooth muscle [**Last Name (LF) 3294**], [**First Name3 (LF) **], hep A, B, C antibodies, HFE,
   to evaluate for other etiology of cirrhosis
   5.  ELEVATED INR.  Likely secondary to combination of liver disease and
   poor PO intake.  Minimal effect with oral vitamin K.
   - follow INR
   6.  THROMBOCYTOPENIA.  [**Month (only) 51**] be secondary to marrow suppression from
   alcohol abuse or splenic sequestration.  Noted to have splenomegaly on
   abdominal ultrasound.  Per PCP, [**Name10 (NameIs) 1123**] Plt is in 70s.  Unclear from
   PCP what prior workup has occurred.  No schistocytes on peripheral
   smear.
   -  trend plts, transfuse for <50 while having GIB
   7.  DIABETES MELLITUS
   -   RISS for now, hold glyburide for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2148-12-12 07:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GI bleed, ETOH withdrawal
   24 Hour Events:
   > continued EtOH withdrawal
   > Increasing QTc
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2148-12-11**] 09:30 PM
   Labetalol - [**2148-12-12**] 01:30 AM
   Lorazepam (Ativan) - [**2148-12-12**] 01:36 AM
   Pantoprazole (Protonix) - [**2148-12-12**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-12**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 77 (64 - 91) bpm
   BP: 139/94(106) {139/69(92) - 187/127(138)} mmHg
   RR: 22 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,699 mL
                                                                    231 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,210 mL
                                                                    231 mL
   Blood products:
                                                                      8 mL
   Total out:
                                                                  5,135 mL
                                                                    792 mL
   Urine:
                                                                  5,135 mL
                                                                    792 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,436 mL
                                                                   -561 mL
   Respiratory support
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: A+Ox 2
   (markedly improved from [**12-11**])
   Labs / Radiology
   12.0 g/dL
   66 K/uL
   137 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   33.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2148-12-9**]  05:36 AM
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
                             [**2148-12-10**]  11:15 AM
                             [**2148-12-10**]  06:53 PM
                             [**2148-12-11**]  03:22 AM
                             [**2148-12-11**]  05:30 PM
                             [**2148-12-12**]  03:28 AM
   WBC
   6.6
   7.2
   5.4
   8.8
   6.6
   Hct
   25.6
   28.0
   26.8
   29.7
   29.9
   28.9
   34.5
   34.5
   33.7
   Plt
   51
   47
   71
   60
   56
   53
   70
   66
   Cr
   1.0
   0.8
   0.8
   0.8
   0.8
   Glucose
   241
   145
   163
   197
   137
   Other labs: PT / PTT / INR:15.3/28.3/1.3, ALT / AST:38/101, Alk Phos /
   T Bili:114/3.4, Amylase / Lipase:31/23, Differential-Neuts:78.8 %,
   Lymph:12.3 %, Mono:4.2 %, Eos:4.3 %, Albumin:3.1 g/dL, LDH:244 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL. [**Doctor First Name **] neg
   Assessment and Plan
   51 yo male with hx of UGIB in the setting of a hx of heavy EtOH,
   hemachromatosis and Hepatitis C with UGIB in the setting of grad [**3-10**]
   esoph varices s/p banding [**12-9**].
    GIB: hx of EtOH abuse, hemachromatosis and ?Hep C as possible cause
   of cirrhosis.  His baseline Hct is apparently in the mid 30
s. Now s/p
   variceal bleed with banding and octreotide course with stable Hct
   - IV PPI
   - Follow q 12hr Hct
   -  cont Beta blocker (uptitrate)
   - Goal HCT > 30 in the setting of bleeding, Goal Plt> 50 and INR < 1.5
   - Oral vitamin K
   >Cirrhosis: ongoing evaluation for cirrhosis including hemachromatosis
   and Hep C as well as EtOH abuse, as well as other potential etiologies
   of cirrhosis.
   >HTN/tachycardia:likely related in part to underlying HTN and
   exacerbated by withdrawl
   - Will add back lisinopril (home dose)
   >EtOH abuse: Improvement compared to [**12-10**], increasingly oriented.
   - CIWA scale using haldol for hallucination, seems to have responded
   well to valium (prob [**3-9**] longer half life)
   - fluid repletion with D5 , thiamine and folate
   - Advance diet as tolerated
   - Prolonged QT on ECG, holding haldol.
   >Thrombocytopenia: unclear etiology possible partial component of
   marrow suppression (from EtOh although odd that MCV is low) vs
   hemachromatosis with marrow infiltrate) . By report this is chronic.
   Does not appear to be a med related toxic component.  Appears to have
   significant splenomegaly on US ([**12-10**]) which likely explains the
   thrombocytopenia at least in part.
   -Plt goal of> 50
   ICU Care
   Nutrition:
   OK to trial clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  Keep HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2148-12-13 07:43:00 Physician Resident Progress Note
Chief Complaint: alcohol withdrawal, upper gi bleed
   24 Hour Events:
   - Rare agitation, getting out of bed, haldol 2.5 x 1.
   - Lisinopril started at 10 mg.
   - Liver: check AFP, ?repeat Fe/TIBC (hard to read the note...)
   - Hct stable (34.7
 35.3
 33.7 )
   - positive anti smooth muscle antibody
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2148-12-12**] 08:12 AM
   Pantoprazole (Protonix) - [**2148-12-12**] 04:29 PM
   Haloperidol (Haldol) - [**2148-12-13**] 12:04 AM
   Other medications:
   Valium prn
   Lisinopril 10 mg daily
   Haldol prn
   Nadolol 40
   Sucralafate
   Folate
   Thiamine
   Insulin sliding scale
   Zofran prn
   Pantoprazole 40 IV q 12
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-13**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 72 (59 - 95) bpm
   BP: 155/81(97) {115/63(68) - 179/99(132)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,560 mL
                                                                     76 mL
   PO:
                                                                  1,500 mL
             TF:
   IVF:
                                                                  2,060 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  3,362 mL
                                                                    470 mL
   Urine:
                                                                  3,362 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    198 mL
                                                                   -395 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   12.0 g/dL
   134 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.4 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   34.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
                             [**2148-12-10**]  11:15 AM
                             [**2148-12-10**]  06:53 PM
                             [**2148-12-11**]  03:22 AM
                             [**2148-12-11**]  05:30 PM
                             [**2148-12-12**]  03:28 AM
                             [**2148-12-12**]  06:31 PM
                             [**2148-12-13**]  05:31 AM
   WBC
   7.2
   5.4
   8.8
   6.6
   6.2
   Hct
   28.0
   26.8
   29.7
   29.9
   28.9
   34.5
   34.5
   33.7
   35.3
   34.7
   Plt
   47
   71
   60
   56
   53
   70
   66
   69
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   Glucose
   145
   163
   197
   137
   134
   Other labs: PT / PTT / INR:15.2/27.2/1.3, ALT / AST:35/73, Alk Phos / T
   Bili:122/2.9, Amylase / Lipase:31/23, Differential-Neuts:66.7 %,
   Lymph:19.7 %, Mono:9.5 %, Eos:3.8 %, Albumin:3.2 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 3228**] is a 51 year old male with h/o liver
   disease secondary to hemachromatosis, alcoholic liver disease, HCV, and
   history of esophageal varices admitted for UGIB now in alcohol
   withdrawal.
    1.  Alcohol withdrawal.  Requiring large amounts of benzos to control
   symptoms and haldol (with limited use due to qt prolongation).  Better
   effect with valium than ativan so will transition to valium.
   - switch to valium per CIWA scale
   - haldol as needed while monitoring QTc
           -  thiamine, folate, mvi
           -  daily EKG for QTc evaluation
   2.        Upper GI Bleed. EGD showed grade [**3-10**] esophageal varices s/p
   banding as well as esophagitis.  Was started on IV PPI [**Hospital1 7**].  Was on
   octreotide drip for 3 days, now completed.  No BMs or hematemasis in
   last 24 hours.  S/p 5 units of PRBC during hospitalization.  Hct now
   stable.   Baseline Hct of 35-40 per PCP.
   [**Name Initial (NameIs) **] [**Hospital1 7**] Hcts
   -  IV PPI [**Hospital1 7**]
   - type and cross 2 units
   - sucralafate for two weeks
   - Liver team following
   - regular diet
   -  nadolol 40 mg daily given presence of varices
   3. Hypertension.  Patient on lisinopril and lopressor at home at
   unknown doses.  Nadolol initiated during hospital stay due to history
   of varices.  Patinet has ongoing hypertension likely due to withdrawal
   from alcohol plus baseline hypertension.
   - tolerate SBP < 160, prn IV antihypertensives
   - continue nadolol
   - initiate lisinopril
   .
   4.   Liver disease.  Patient has a history of hemochromatosis, alcohol
   abuse, and HCV.  Evidence of stigmata of chronic liver disease.
   Elevated Iron noted.  Abdominal ultrasound did not show cirrhosis, but
   showed splenomegaly and no ascites.  Patient state prior workup for
   liver disease including liver biopsy occurred at [**Hospital1 19**] many years ago,
   but no record of this.  Outpatient GI doctor is unclear of prior workup
   given that patient does not follow up regularly.  History of Hep B
   vaccination.  History of hep A infection in past.  [**Doctor First Name **] negative
   - f/u final read of abdominal ultrasound
   - f/u anti smooth muscle antibiody HFE, to evaluate for other etiology
   of cirrhosis
   5.   THROMBOCYTOPENIA.  Likely secondary to splenic sequestration.  At
   baseline platelet count.
   -  trend plts, transfuse for <50 while having GIB
   7.  DIABETES MELLITUS
   -   RISS for now, hold glyburide for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2148-12-13 07:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ETOH withdrawal, GI bleed
   24 Hour Events:
   Improved mental status
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-12-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2148-12-12**] 08:12 AM
   Pantoprazole (Protonix) - [**2148-12-12**] 04:29 PM
   Haloperidol (Haldol) - [**2148-12-13**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 72 (59 - 95) bpm
   BP: 155/81(97) {115/63(68) - 179/99(132)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,560 mL
                                                                     78 mL
   PO:
                                                                  1,500 mL
             TF:
   IVF:
                                                                  2,060 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  3,362 mL
                                                                    470 mL
   Urine:
                                                                  3,362 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    198 mL
                                                                   -392 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Purposeful,
   Labs / Radiology
   12.0 g/dL
   69 K/uL
   134 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.4 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   34.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2148-12-9**]  01:30 PM
                             [**2148-12-9**]  07:54 PM
                             [**2148-12-10**]  04:04 AM
                             [**2148-12-10**]  11:15 AM
                             [**2148-12-10**]  06:53 PM
                             [**2148-12-11**]  03:22 AM
                             [**2148-12-11**]  05:30 PM
                             [**2148-12-12**]  03:28 AM
                             [**2148-12-12**]  06:31 PM
                             [**2148-12-13**]  05:31 AM
   WBC
   7.2
   5.4
   8.8
   6.6
   6.2
   Hct
   28.0
   26.8
   29.7
   29.9
   28.9
   34.5
   34.5
   33.7
   35.3
   34.7
   Plt
   47
   71
   60
   56
   53
   70
   66
   69
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   Glucose
   145
   163
   197
   137
   134
   Other labs: PT / PTT / INR:15.2/27.2/1.3, ALT / AST:35/73, Alk Phos / T
   Bili:122/2.9, Amylase / Lipase:31/23, Differential-Neuts:66.7 %,
   Lymph:19.7 %, Mono:9.5 %, Eos:3.8 %, Albumin:3.2 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   51 yo male with hx of UGIB in the setting of a hx of heavy EtOH,
   hemachromatosis and Hepatitis C with UGIB in the setting of grad [**3-10**]
   esoph varices s/p banding [**12-9**].
    GIB: hx of EtOH abuse, hemachromatosis and ?Hep C as possible cause
   of cirrhosis.  His baseline Hct is apparently in the mid 30
s. Now s/p
   variceal bleed with banding and octreotide course with stable Hct
   - change PPI to PO
   -  cont Beta blocker for varices
   - Goal HCT > 30 in the setting of bleeding, Goal Plt> 50 and INR < 1.5
   - Oral vitamin K
   >Cirrhosis: ongoing evaluation for cirrhosis including hemachromatosis
   and Hep C as well as EtOH abuse, as well as other potential etiologies
   of cirrhosis. Anti smooth muscle Ab pos, [**Doctor First Name **] neg
    >HTN/tachycardia:likely related in part to underlying HTN and
   exacerbated by withdrawl
   - Lisinopril
   >EtOH abuse: Now largely improved, lucid will cont PO valium CIWA scale
   - CIWA scale: valium and haldol prn
   - thiamine and folate (change to PO)
   - Check QTc
   >Thrombocytopenia: Probably a combination of splenic sequestration (on
   U/S) and EtOh abuse.
   -Plt goal of> 50
   ICU Care
   Nutrition:
   Comments: Reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2148-12-9**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes